US06759554B2
1-Quinolin-3-yl-pyrrolidin-2-one
Using general procedure C, 3-bromoquinoline was coupled with 2-pyrrolidinone with the reaction time of 15 h. Chromatography gave 210 mg (99%) of the title compound as a solid. 1H NMR (CDCl3, 300 MHz): δ 9.24 (d, 1H, J=2.7 Hz), 8.45 (d, 1H, J=2.4 Hz), 8.08 (d, 1H, J=8.4 Hz), 7.82 (d, 1H, J=8.1 Hz), 7.66 (t, 1H, J=7.7 Hz), 7.55 (t, 1H, J=7.5 Hz), 4.04 (t, 2H, J=7.2 Hz), 2.69 (t, 2H, J=8.1 Hz), 2.28 (p, 2H, J=7.8 Hz).

reactant | 3-bromoquinoline | BrC=1C=NC2=CC=CC=C2C1 | C9H6BrN
reactant | 2-pyrrolidinone | N1C(CCC1)=O | C4H7NO
product | 1-Quinolin-3-yl-pyrrolidin-2-one | 210 mg, 99% | N1=CC(=CC2=CC=CC=C12)N1C(CCC1)=O | C13H12N2O
